US05187189
A solution of a 3:1 mixture of 4-[S-[3-(diethylamino)propyl]-N-[(phenylmethoxy)carbonyl]sulfonimidoyl]benzeneamine and S-[3-(diethylamino)propyl]-S-[4-(hydroxyamino)phenyl]-N-[(phenylmethoxy)carbonyl]sulfoximine obtained through an incomplete reduction of S-[3-(diethylamino)propyl)-S-(4-nitrophenyl)-N-[(phenylmethoxy)carbonyl]sulfoximine (4.2 g, ~10 mmol) was dissolved in a pyridine (42 mL)-methylene chloride (12 mL) mixture. The resulting solution was cooled in an ice/water bath, and methanesulfonyl chloride (1.2 g, 10 mmol) was added. The reaction mixture was allowed to come to ambient temperature and was stirred for 4 h. The reaction mixture was then added to 200 mL of diethyl ether. The ethereal solution was decanted from the insoluble residue. The residue was triturated with an additional 100 mL of diethyl ether, and the ethereal solution was decanted and discarded. The residue was dried in vacuo to give 3.0 g of a gum that was chromatographed (flash, silica gel, 95:5-90:10 methylene chloride-methanol) to give 0.7 g of product (15%). A 200 mg sample was dissolved in ethanol and treated with ethereal HCl. The solid that formed was recrystallized from ethanol. This solid was triturated with ethyl acetate and then recrystallized from ethanol. The resulting solid was recrystallized from an ethanol/diethyl ether mixture to give 0.02 g of off-white solid, mp 76°-78° C.

reactant | 4-[S-[3-(diethylamino)propyl]-N-[(phenylmethoxy)carbonyl]sulfonimidoyl]benzeneamine | C(C)N(CCCS(=O)(=NC(=O)OCC1=CC=CC=C1)C1=CC=C(C=C1)N)CC | C21H29N3O3S
reactant | S-[3-(diethylamino)propyl]-S-[4-(hydroxyamino)phenyl]-N-[(phenylmethoxy)carbonyl]sulfoximine | C(C)N(CCCS(=O)(=NC(=O)OCC1=CC=CC=C1)C1=CC=C(C=C1)NO)CC | C21H29N3O4S
product | S-[3-(diethylamino)propyl)-S-(4-nitrophenyl)-N-[(phenylmethoxy)carbonyl]sulfoximine | ~10 mmol, 4.2 g | C(C)N(CCCS(=O)(=NC(=O)OCC1=CC=CC=C1)C1=CC=C(C=C1)[N+](=O)[O-])CC | C21H27N3O5S
